US04390707
Preparation of 6-(2-Furoyl)-1-bromohexane, (III, n=6).
A solution of 135 mmol of trifluoroacetic anhydride in 50 ml of dry methylene chloride was added to a stirred solution of 130 mmol of 7-bromoheptanoic acid in 200 ml of dry methylene chloride. After 15 minutes, a solution of 390 mmol of furan in 25 ml of dry methylene chloride was added in a steady stream to the reaction mixture, and the resultant mixture stirred at 25° C. for 2.0 hrs. The methylene chloride and trifluoroacetic acid were removed by evaporation in vacuo. The residue was dissolved in ether, washed with water and distilled in vacuo to afford the title compound, bp 114° (0.01 mm Hg), 89.7% yield.

reactant | trifluoroacetic anhydride | 135 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-bromoheptanoic acid | 130 mmol | BrCCCCCCC(=O)O | C7H13BrO2
reactant | furan | 390 mmol | O1C=CC=C1 | C4H4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 6-(2-Furoyl)-1-bromohexane | 89.7% yield | O1C(=CC=C1)C(=O)CCCCCCBr | C11H15BrO2
